US04616007
(1ac) 4-(1-Methyltetrazol-5-ylthio)-butyric acid chloride
2.2 g of 4-(1-methyltetrazol-5-ylthio)-butyric acid are stirred in 20 ml of absolute benzene with 1.03 ml of thionyl chloride and 4 drops of DMF for 20 minutes at the reflux temperature. The solvent is then concentrated by evaporation under reduced pressure. After dissolving and concentrating by evaporation twice more in toluene, the pure title compound is obtained in the form of a yellow oil.

reactant | 4-(1-methyltetrazol-5-ylthio)-butyric acid | 2.2 g | CN1N=NN=C1SCCCC(=O)O | C6H10N4O2S
reactant | thionyl chloride | 1.03 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
product | 4-(1-Methyltetrazol-5-ylthio)-butyric acid chloride | CN1N=NN=C1SCCCC(=O)Cl | C6H9ClN4OS
